*** Title: "D:\L_1\LR_1\LR_SSHMT_!\LR_2_SH\simulation\tb_poln_sum\netlistLR_2_SH.net"
*** Generated by:  Symica
*** © 2009-2014 Symica. All rights reserved. (www.symica.com)
*** Generated for: SymSpice                                     
*** Generated on:  Wed Sep 24 13:06:53 2025                     
*******************************************************************

simulator lang=local


parameters 

V0 vdd! gnd vsource type=dc dc=3.5 
V1 A_0 gnd vsource type=dc dc=0 
V2 A_1 gnd vsource type=dc dc=3.5 
V4 A_3 gnd vsource type=dc dc=3.5 
V5 A_4 gnd vsource type=dc dc=3.5 
V6 B_0 gnd vsource type=dc dc=0 
V7 B_1 gnd vsource type=dc dc=3.5 
V8 B_2 gnd vsource type=dc dc=3.5 
V9 B_3 gnd vsource type=dc dc=0 
V10 B_4 gnd vsource type=dc dc=0 
C0 OUT_0 gnd capacitor c=1e-013 
C1 OUT_1 gnd capacitor c=1e-013 
C2 OUT_2 gnd capacitor c=1e-013 
C3 OUT_3 gnd capacitor c=1e-013 
C4 OUT_4 gnd capacitor c=1e-013 
C5 OUT_5 gnd capacitor c=1e-013 
V3 A_2 gnd vsource type=dc dc=3.5 
I24 gnd A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 OUT_0 OUT_1 OUT_2 OUT_3 OUT_4 OUT_5 SUM_5 

subckt SUM_5 C_IN A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 OUT_5 OUT_4 OUT_3 OUT_2 OUT_1 OUT_0 
I0 A_0 C_IN OUT_0 n1_4 B_0 Sum_poln 
I1 A_1 n1_4 OUT_1 n2_4 B_1 Sum_poln 
I2 A_2 n2_4 OUT_2 n3_4 B_2 Sum_poln 
I3 A_3 n3_4 OUT_3 n4_4 B_3 Sum_poln 
I14 A_4 n4_4 OUT_4 OUT_5 B_4 Sum_poln 
ends

subckt Sum_poln A C_in S C_out B 
I0 A B n1_3 XOR2 
I1 n1_3 C_in S XOR2 
I2 n3_3 C_in n1_3 AND2 
I3 n4_3 A B AND2 
I4 C_out n3_3 n4_3 OR2 
ends

subckt XOR2 A B Out 
M2 n5_4 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M4 n7_4 B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M5 n7_4 B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M6 n9_4 n5_4 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M7 n9_4 n5_4 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M12 Out n11_1 vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M8 n5_4 B n11_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M9 n5_4 n7_4 n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M13 Out n11_1 gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M10 n9_4 n7_4 n11_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M11 n9_4 B n11_1 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M3 n5_4 A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt AND2 out A B 
I2 out n16_1 inv 
I0 B A n16_1 NAND2 
ends

subckt inv out in 
M3 out in vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M2 out in gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
ends

subckt NAND2 B A Out 
M1 n2_4 B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out A n2_4 gnd nmos_mod1.1 w=2e-006 l=6e-007 
M0 Out B vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 vdd! A Out vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends

subckt OR2 Out A B 
I2 Out n7_1 inv 
I0 A B n7_1 NOR2 
ends

subckt NOR2 A B Out 
M0 Out A gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M1 Out B gnd gnd nmos_mod1.1 w=2e-006 l=6e-007 
M2 Out B n4_1 vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
M3 n4_1 A vdd! vdd! pmos_mod1.1 w=3.2e-006 l=6e-007 
ends
